US08754089B2
To a suspension of 2-(1-(7-fluoro-4-oxo-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione (0.584 g, 1.409 mmol) in EtOH (28.2 mL) was added hydrazine, monohydrate (0.684 mL, 14.09 mmol), and the mixture was stirred under reflux. After 1 h, the mixture was cooled to rt and the precipitate was filtered and washed with EtOAc (50 mL×2). The filtrate was concd under reduced pressure and then it was redissolved in EtOAc (50 mL) and water (50 mL). The aq layer was extracted with EtOAc (50 mL×1). The combined organic layers were treated with 3N aq HCl (50 mL). The separated aq layer was washed with DCM (50 mL×2) to remove organic impurities, basified to ˜pH 13 with 10N NaOH (80 mL), and extracted with EtOAc (100 mL×3). The combined organic layers were dried over MgSO4, filtered, and concd under reduced pressure to give 2-(1-aminoethyl)-7-fluoro-3-(pyridin-2-yl)-4H-pyrido[1,2-a]-pyrimidin-4-one as a yellow syrupy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.93-8.98 (1 H, m), 8.65-8.71 (1 H, m), 8.13 (1 H, ddd, J=9.9, 7.1, 2.9 Hz), 7.81-7.93 (2 H, m), 7.59 (1 H, dt, J=7.9, 1.1 Hz), 7.39 (1 H, dd, J=6.3, 4.7 Hz), 3.85 (1 H, q, J=6.7 Hz), 1.23 (3 H, d, J=6.7 Hz); Mass Spectrum (ESI) m/e=285.1 (M+1).

reactant | 2-(1-(7-fluoro-4-oxo-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | 1.409 mmol, 0.584 g | FC=1C=CC=2N(C(C(=C(N2)C(C)N2C(C3=CC=CC=C3C2=O)=O)C2=NC=CC=C2)=O)C1 | C23H15FN4O3
reactant | hydrazine, monohydrate | 14.09 mmol, 0.684 mL | O.NN
solvent | EtOH | 28.2 mL | CCO | C2H6O
product | 2-(1-aminoethyl)-7-fluoro-3-(pyridin-2-yl)-4H-pyrido[1,2-a]-pyrimidin-4-one | NC(C)C=1N=C2N(C(C1C1=NC=CC=C1)=O)C=C(C=C2)F | C15H13FN4O
